US04324741
2.0 ml of methylene chloride, 0.03 ml (0.42 mmol) of mercaptoacetic acid and 80 mg (0.39 mmol) of 2,6-di-tert-butyl-4-methylpyridine were charged in a flask, and 290 mg (0.38 mmol) of heptadecafluoro-n-octylphenyliodonium trifluoromethanesulfonate was added thereto in small portions while stirring at room temperature, followed by stirring for 20 minutes at room temperature. The resulting precipitate was filtered, subjected to silica gel chromatography and, after eluting iodobenzene with pentane, the desired product was eluted with diethyl ether. Diethyl ether was distilled off from the eluate to obtain heptadecafluoro-n-octylthioacetic acid as white crystals. A sample of the product was purified by gas chromatography. Yield, 88%.

reactant | mercaptoacetic acid | 0.42 mmol, 0.03 ml | SCC(=O)O | C2H4O2S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.39 mmol, 80 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | heptadecafluoro-n-octylphenyliodonium trifluoromethanesulfonate | 0.38 mmol, 290 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(C(C(C(C(C([I+]C1=CC=CC=C1)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | heptadecafluoro-n-octylthioacetic acid | FC(C(C(C(C(C(C(CC(=S)O)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C10H3F17OS
